US05536724
6-(Bromomethyl)-2,4-diaminopyrido[2,3-d] pyrimidine (III-2, where R1 is hydrogen)
The intermediate III-2 was prepared from 2,4-diaminopyrido [2,3-d]pyrimidine-6-methanol (III-1) by the procedure described in J. Med. Chem., 35:332 (1992). This particular preparation analyzed for a 1.75 HBr° 0.25 CH3COOH salt (formula wt. 406.7). The material was suitable for conversions to compound 33.

reactant | 2,4-diaminopyrido [2,3-d]pyrimidine-6-methanol | NC=1N=C(C2=C(N1)N=CC(=C2)CO)N | C8H9N5O
reactant | HBr | Br | BrH
solvent | CH3COOH | CC(=O)O | C2H4O2
product | 6-(Bromomethyl)-2,4-diaminopyrido[2,3-d] pyrimidine | BrCC1=CC2=C(N=C(N=C2N)N)N=C1 | C8H8BrN5
